US09403835B2
A solution of diisopropyl azodicarboxylate (776 μL; 3.94 mmol; 2 eq.) in THF (5 mL) was added to a cold (0° C.) solution of methyl salicylate (1 g; 6.57 mmol; 1 eq.) and tert-butyl 2-(hydroxymethyl)morpholine-4-carboxylate (641 mg; 2.95 mmol; 1.5 eq.) and triphenylphosphine (1.03 g; 3.94 mmol; 2 eq.) in THF (15 mL) and the reaction mixture was stirred at room temperature for 16 hours then concentrated in vacuo. Purification by column chromatography (EA/heptane) afforded 2-(2-methoxycarbonyl-phenoxymethyl)-morpholine-4-carboxylic acid tert-butyl ester which was dissolved in THF (10 mL) and MeOH (10 mL). 5M NaOH (1.97 mL; 9.86 mmol; 5 eq.) was added and the resulting mixture was stirred at room temperature for 16 hours then concentrated in vacuo. The residue was partitioned between 1M NaOH and DCM and the aqueous layer was washed with DCM. The aqueous phase was made acidic and extracted with DCM (3×). The combined organic phase was dried over magnesium sulfate and concentrated in vacuo to afford the title compound (411 mg, 34%) as an orange oil which was used without further purification. HPLC (max plot) 89.4%; Rt 3.73 min. UPLC/MS: (MS−) 336.1 ([M−H]−).

reactant | diisopropyl azodicarboxylate | 3.94 mmol, 776 μL, 2 eq. | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methyl salicylate | 6.57 mmol, 1 g, 1 eq. | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | tert-butyl 2-(hydroxymethyl)morpholine-4-carboxylate | 2.95 mmol, 641 mg, 1.5 eq. | OCC1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
reactant | triphenylphosphine | 3.94 mmol, 1.03 g, 2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(2-methoxycarbonyl-phenoxymethyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)COC1=C(C=CC=C1)C(=O)OC | C18H25NO6
